US05516782
Preparation of 1-methyl-N-(tetrahydro-1H-pyrrolizin-7a(5H)-ylmethyl)-1H-indazole-3-carboxamide
Following the procedure of example 1, 7a-Aminomethylhexahydro-1H-pyrrolizine is reacted with N-methylindazole-3-carboxylic acid [J. Medicinal Chemistry (1987) 30: 1535] to afford the title compound.

reactant | 7a-Aminomethylhexahydro-1H-pyrrolizine | NCC12CCCN2CCC1 | C8H16N2
reactant | N-methylindazole-3-carboxylic acid | CN1N=C(C2=CC=CC=C12)C(=O)O | C9H8N2O2
product | 1-methyl-N-(tetrahydro-1H-pyrrolizin-7a(5H)-ylmethyl)-1H-indazole-3-carboxamide | CN1N=C(C2=CC=CC=C12)C(=O)NCC12CCCN2CCC1 | C17H22N4O
